US08309580B2
3-{[(4-{[1-(2-cyclopropyl-5-phenylfuran-3-yl)-3-methylbutyl]amino}phenyl)carbonyl](methyl)amino}propanoic acid
A solution of 4-{[1-(2-cyclopropyl-5-phenylfuran-3-yl)-3-methylbutyl]amino}benzoic acid (264 mg), ethyl 3-(methylamino)propanoate (108 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (157 mg), hydroxybenzotriazole monohydrate (126 mg) and triethylamine (114 μL) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure. To the residue were added ethanol (2 mL), tetrahydrofuran (2 mL) and 1N lithium hydroxide (1.0 mL), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (153 mg, 48%).

reactant | 4-{[1-(2-cyclopropyl-5-phenylfuran-3-yl)-3-methylbutyl]amino}benzoic acid | 264 mg | C1(CC1)C=1OC(=CC1C(CC(C)C)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C25H27NO3
reactant | ethyl 3-(methylamino)propanoate | 108 mg | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 157 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 126 mg | O.OC1=CC=CC=2NN=NC21
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 114 μL | C(C)N(CC)CC | C6H15N
product | 3-{[(4-{[1-(2-cyclopropyl-5-phenylfuran-3-yl)-3-methylbutyl]amino}phenyl)carbonyl](methyl)amino}propanoic acid | 153 mg, 48% | C1(CC1)C=1OC(=CC1C(CC(C)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C)C1=CC=CC=C1 | C29H34N2O4
